US07560558B2
Compound 192: [2-(6,7-Dimethoxy-quinolin-4-yloxy)-5-methoxy-phenyl]-thiazol-2-yl-methanone
[2-(6,7-Dimethoxy-quinolin-4-yloxy)-5-methoxy-phenyl]-thiazol-2-yl-methanol (90 mg) was dissolved in methanol/methylene chloride (3 ml/9 ml) to prepare a solution, manganese dioxide (90 mg) was added to the solution, and the mixture was stirred at room temperature overnight. The reaction solution was filtered through Celite, water was added to the filtrate, and the mixture was extracted with ethyl acetate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give the title compound (65 mg, yield 74%).

reactant | [2-(6,7-Dimethoxy-quinolin-4-yloxy)-5-methoxy-phenyl]-thiazol-2-yl-methanol | 90 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)OC)C(O)C=1SC=CN1 | C22H20N2O5S
solvent | methanol methylene chloride | 3 ml | CO.C(Cl)Cl
catalyst | manganese dioxide | 90 mg | [O-2].[O-2].[Mn+4]
product | [2-(6,7-Dimethoxy-quinolin-4-yloxy)-5-methoxy-phenyl]-thiazol-2-yl-methanone | 65 mg, yield 74% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)OC)C(=O)C=1SC=CN1 | C22H18N2O5S
